Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12]>>[C:11][H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10],10.6473554794
[C:1]#[C:2].[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-7.02932408535
[C:1].[O:2]=[C:3]([H:4])[C:5]([H:6])[H:7]>>[C:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],-4.31123911595
[C:3]([H:4])[C:5]([H:6])([H:7])[H:8].[O:1]=[C:2][C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.9269887406
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13]>>[H:10].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:11]/[O:12][H:13],2.83819249597
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9]>>[C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9].[O:1]=[C:2],0.648736231269
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])[H:4],0.648898841229
[H:1][C:2]=[C:3]([H:4])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-1.5638708409600002
[H:1][O:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][O:3][C:4]([H:5])=[C:6][H:7],1.91595140411
[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[C:2](=[C:3](\[H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14])\[C:15]([H:16])([H:17])[H:18].[H:1],4.79360806367
[H:10].[H:1][C:2]#[C:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[O:9]>>[H:1][C:2]#[C:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[O:9][H:10],-3.78364439315
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10]>>[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10].[O:1]=[C:2]([H:3])[H:4],0.415377249621
[C:6]([H:7])([H:8])[O:9][H:10].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][H:10],-1.26590390298
[H:16].[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.57068160754
[C:1].[C:2]#[C:3][O:4][C:5]#[C:6]>>[C:1][C:2]#[C:3][O:4][C:5]#[C:6],-6.78949316264
[C:2][C:5]([H:3])([H:4])[C:9]#[C:10][C:11]([H:12])([H:13])[H:14].[H:1][C:6]([H:7])[H:8]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]#[C:10][C:11]([H:12])([H:13])[H:14],-3.7786811774
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:12].[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:10][H:11],5.05412649129
[H:3].[O:1]=[C:2]=[C:4][O:5][C:6]([H:7])[H:8]>>[O:1]=[C:2]([H:3])[C:4][O:5][C:6]([H:7])[H:8],-1.83839263292
[C:1](=[C:2]=[O:3])[O:4][C:5][C:6]([H:7])([H:8])[H:9]>>[C:1][C:2](=[O:3])[O:4][C:5][C:6]([H:7])([H:8])[H:9],1.89689065074
[C:6]([H:7])([H:8])[H:9].[O:1][O:2][C:3]([H:4])=[C:5]>>[O:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9],-4.3066644430300025
[H:12].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.36639038691
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6]/[O:8][H:9].[H:7]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9],-4.93180321198
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14].[H:15]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15],-6.023748683180001
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],4.33023979862
[H:1][O:2][C:3]([C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[O:10][H:11]>>[C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3]([C:4]#[C:5])[O:10][H:11],3.5319642359099994
[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-3.97695352682
[O:1][C:2]([H:3])([H:4])/[C:5]([O:6][H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[O:1][C:2]([H:3])([H:4])[C:5][O:6][H:7],7.0777362232500005
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]#[C:4][H:5].[H:1][C:2]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],5.65571546206
[C:4](=[C:5]([H:6])[H:7])([H:9])[H:10].[H:1][O:2][C:3]#[C:8][C:11]([H:12])[H:13]>>[H:1][O:2][C:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],0.264740845151
[H:1][O:2]/[C:3]=[C:4](\[O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:4][O:5][H:6].[H:1][O:2][C:3][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],3.89703546893
